*****************************************************************
* NXP PSMN6R0-30YLD
*
* Polarity N-Channel
* Ratings 30V/6.000000E-003OHMS/65.6322957952319A
*
* Date Created Mon Aug 05 05:18:43 2013
* Created By: Steven Waterhouse.
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN6R0-30YLD DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 0.981801357717194
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 0.791681348704628
RLS1 8 7 0.00024

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00395822251432928 TC=-8424330.3002585,-312055.586212027
RBD 9 4 0.00193226399065678 TC=-8424330.3002585,-312055.586212027
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 7.20825186767951e-10
RG 1 2 2.36152

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	575.024

+ -1	420.456

+ -0.5	338.762

+ -0.2	295.995

+ -0.1	294.965

+ 0	270.23846

+ 0.1	235.40476

+ 0.2	235.17312

+ 0.5	202.76768

+ 1	169.61024

+ 2	136.01196

+ 3	117.3234

+ 4	104.23552

+ 5	93.52638

+ 6	85.23245

+ 8	75.05263

+ 10	69.8291

+ 12	66.71617

+ 15	63.71321

+ 16	62.92419



.MODEL MINT NMOS(Vto=2.24571989930061 Kp=1.850821e+002 Nfs=440000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=6.69330635768587e-13
+ N=1 M=0.31 VJ=0.65 Fc=0.5 Cjo=1.40087568e-09 Tt=1.0624e-08)

.ENDS

